US03932399
Preparation of 7-chloro-2,3-dihydro-2-(2-hydroxyethylthio)-5-phenyl-1H-1,4-benzodiazepine.
7-chloro-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepine (10 g) was oxidized to 7-chloro-5-phenyl-3H-1,4-benzodiazepine as described in Example 1 with the addition of 0.1 ml of acetic acid. The crude oxidation product was taken up in THF (60 ml), treated with 2-mercaptoethanol (10 ml ) and heated under reflux overnight. The resulting solution was concentrated under reduced pressure until the product began to crystallize and then diluted with 100 ml of ether. The product was collected and washed with ether to give the above-named product as colorless crystals, mp 135°-140° (dec).

reactant | 7-chloro-2,3-dihydro-5-phenyl-1H-1,4-benzodiazepine | 10 g | ClC=1C=CC2=C(C(=NCCN2)C2=CC=CC=C2)C1 | C15H13ClN2
reactant | 7-chloro-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC=N2)C2=CC=CC=C2)C1 | C15H11ClN2
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | 2-mercaptoethanol | 10 ml | SCCO | C2H6OS
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 7-chloro-2,3-dihydro-2-(2-hydroxyethylthio)-5-phenyl-1H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(N2)SCCO)C2=CC=CC=C2)C1 | C17H17ClN2OS
